US06331538B1
N-Benzyloxy-2-cyclopropylamino-5-fluoro-6-(4-methyl piperazinyl)-3-pyridinecarboxamide
Following the procedure of Example 1-2, the reaction of 2-cyclopropylamino-5-fluoro-6-(4-methylpiperazinyl)-3-pyridinecarboxylic acid (Example H-2, 200 mg, 0.67 mmol) and HOBT (99.5 mg, 0.74 mmol) with EDCI (154.6 mg, 0.81 mmol) in dichloromethane (10 mL) followed by adding O-benzylhydroxylamine hydrochloride (0.81 mmol) and triethylamine (0.113 mL. 0.81 mmol) gave a crude oil. Purification of the oil by flash chromatography on a silica gel column with 5% of MeOH in dichloromethane provided 160 mg of the title compound as an oil.

reactant | 2-cyclopropylamino-5-fluoro-6-(4-methylpiperazinyl)-3-pyridinecarboxylic acid | 0.67 mmol, 200 mg | C1(CC1)NC1=NC(=C(C=C1C(=O)O)F)N1CCN(CC1)C | C14H19FN4O2
reactant | HOBT | 0.74 mmol, 99.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.81 mmol, 154.6 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | O-benzylhydroxylamine hydrochloride | 0.81 mmol | Cl.C(C1=CC=CC=C1)ON
reactant | triethylamine | 0.81 mmol, 0.113 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-Benzyloxy-2-cyclopropylamino-5-fluoro-6-(4-methyl piperazinyl)-3-pyridinecarboxamide | 160 mg | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)N1CCN(CC1)C)NC1CC1 | C21H26FN5O2
